US05770380
3-tert-Butoxycarbonylaminomethyl-5-nitrobenzoic acid (HMY2618).
A solution of methyl 5-nitro-3-aminomethybenzoate (1980 mg, 9.4 mmol) in 1N NaOH (28 mL, 28 mmol) and tert-BuOH (20 mL) was stirred at r.t. for 10 hours and then added BOC2O (4100 mg, 18.8 mmol) and stirred for 17 hours. The reaction mixture was added hexanes (50 mL) and water (50 mL). The aqueous layer was acidified with 5% citric acid aq. and extracted with CH2 Cl2 (2×70 mL). The CH2Cl2 layers were combined and washed with water (50 mL). The organic layer was evaporated to give the desired compound (2450 mg, 88%): 1H NMR (300 MHz, DMSO-d6) δ 13.725 (s, 1H), 8.476 (s, 1H), 8.307 (s, 1H), 8.216 (s, 1H), 7.639 (t, J=5.7 Hz, 1H), 4.398 (d, J=5.7 Hz, 2H), 1.385 (s, 9H); 13C NMR (300 MHz, DMSO-d6) δ 165.5, 155.9, 147.9, 143.5, 133.6, 132.5, 125.4, 122.2, 78.3, 42.6, 28.2.

reactant | methyl 5-nitro-3-aminomethybenzoate | 9.4 mmol, 1980 mg | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C1)CN | C9H10N2O4
reactant | NaOH | 28 mmol, 1N, 28 mL | [OH-].[Na+]
reactant | BOC2O | 18.8 mmol, 4100 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tert-BuOH | 20 mL | C(C)(C)(C)O | C4H10O
solvent | water | 50 mL | O | H2O
product | 3-tert-Butoxycarbonylaminomethyl-5-nitrobenzoic acid | 2450 mg, 88% | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C13H16N2O6
